US05569786
Synthesis of 2,3,-dihydroxy-4-methoxy-benzaldehyde
To a vigorously stirred solution of sodium boratedecahydrate (borax, 30 g) in 600 mL of water was added 2,3,4-trihydroxy-benzaldehyde (5 g, 32.4 mmol). The yellow solution was stirred at room temperature for 30 min followed by dropwise and simultaneous addition (over 30 min) of sodium hydroxide (4.0 g, 100 mmol) in water (50 mL) and dimethylsulfate (9.45 mL, 100 mmol). Vigorous stirring was continued overnight and conc. hydrochloric acid was added to pH 1. After stirring for an additional 30 min the mixture was extracted with chloroform (5×300 ml). The organic layer was once washed with brine, dried and evaporated to yield a slightly yellowish solid which on crystallization from ethyl acetate-hexane afforded slightly yellowish colored needles (3.9 g, 72%), mp 116°-17° C.: (lit. 118°-119° C.), IR (film) 3374, 1646, 1505, 1461, 1443, 1278, 1210, 1106, 636 cm-1 ; 1H-NMR 3.987 (3H, s, OCH3), 5,466 (1H, brs, OH-3, D2O exchanged) 6.617 (1H, d, JAB =8.62, H-5), 7.147 (1H, d, JBA =8.62 HZ, H-6, 9,757 (1H, S, CHO) 11,113 (1H, brs, OH-2, D2O exchanged); and HREIMS (m/z, 168.0419 (M, 100%; calcd 168.0423 for C8H8O4).

reactant | sodium | [Na] | Na
reactant | 2,3,4-trihydroxy-benzaldehyde | 32.4 mmol, 5 g | OC1=C(C=O)C=CC(=C1O)O | C7H6O4
reactant | sodium hydroxide | 100 mmol, 4.0 g | [OH-].[Na+]
reactant | dimethylsulfate | 100 mmol, 9.45 mL | COS(=O)(=O)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 600 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2,3,-dihydroxy-4-methoxy-benzaldehyde | 3.9 g, 72% | OC1=C(C=O)C=CC(=C1O)OC | C8H8O4
